US07465825B2
Step 2: Preparation of Tert-Butyl-{[4′-(2-benzylbenzofuran-3-yl)biphenyl-4-sulfonyl]-(3-trifluoromethyl-benzyl)amino}acetate
A solution of 2-benzyl-3-[4′-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)phenyl]-benzofuran (268 mg 0.653 mmol) in anhyd DMSO (5 mL) was added to a stirred suspension of tert-Butyl-[(4-bromobenzenesulfonyl)-(3-trifluoromethylbenzyl)amino]-acetate (296 mg, 0.58 mmol) and tripotassium phosphate (0.37 g, 1.76 mmol) in anhyd DMSO (5 mL). [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II)-DCM complex (60 mg, 0.07 mmol) was added as a solid, and the resulting suspension was heated to 80° C. for 25 h. The reaction mixture was cooled to room temperature, diluted with ethyl acetate, filtered though celite, and washed with sat'd aq LiCl (3×10 mL), sat'd aq NaCl (1×10 mL), dried over anhyd MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography (heptane) afforded the title compound as a white solid (95 mg).

reactant | 2-benzyl-3-[4′-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)phenyl]-benzofuran | 0.653 mmol, 268 mg | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=CC=C2 | C27H27BO3
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
reactant | tert-Butyl-[(4-bromobenzenesulfonyl)-(3-trifluoromethylbenzyl)amino]-acetate | 0.58 mmol, 296 mg | C(C)(C)(C)OC(CN(CC1=CC(=CC=C1)C(F)(F)F)S(=O)(=O)C1=CC=C(C=C1)Br)=O | C20H21BrF3NO4S
reactant | tripotassium phosphate | 1.76 mmol, 0.37 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Tert-Butyl-{[4′-(2-benzylbenzofuran-3-yl)biphenyl-4-sulfonyl]-(3-trifluoromethyl-benzyl)amino}acetate | 95 mg | C(C)(C)(C)OC(CN(CC1=CC(=CC=C1)C(F)(F)F)S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(OC2=C1C=CC=C2)CC2=CC=CC=C2)=O | C41H36F3NO5S
